US06747025B1
Preparation of 1-(4-Methyl-piperazin-1-ylmethyl)-3-(1H-pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one
A mixture of Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one (120 mg, 0.57 mmol), paraformaldehyde (17 mg, 0.57 mmol), and 1-methylpiperazine (63 μL, 0.57 mmol) in 4.0 mL EtOH was heated at reflux for 6.5 h. After standing at room temperature for 23 h, the mixture was concentrated to 3 mL solvent and 1 mL of hexane added. The resulting solution was cooled to 0° C. and the yellow solid which formed was collected by filtration. The solid collected was partitioned between 30 mL dilute HCl and 20 mL Ethyl acetate. The organic layer was removed and the aqueous layer washed with ethyl acetate (15 mL). The aqueous layer was made basic to pH 8 with saturated NaHCO3 and extracted with ethyl acetate. The ethyl acetate layer was washed with H2O, brine and dried with Na2SO4. The organic layer was concentrated and the residue was crystallized from ethyl acetate/hexane to give the title compound (38 mg, 21%) as a bright yellow solid.

reactant | Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 0.57 mmol, 120 mg | N1C(=CC=C1)\C=C\1/C(NC2=CC=CC=C12)=O | C13H10N2O
reactant | paraformaldehyde | 0.57 mmol, 17 mg | C=O | CH2O
reactant | 1-methylpiperazine | 0.57 mmol, 63 μL | CN1CCNCC1 | C5H12N2
solvent | EtOH | 4.0 mL | CCO | C2H6O
product | 1-(4-Methyl-piperazin-1-ylmethyl)-3-(1H-pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 38 mg, 21% | CN1CCN(CC1)CN1C(C(C2=CC=CC=C12)=CC=1NC=CC1)=O | C19H22N4O
